### PR TITLE
[Merged by Bors] - feat: properties of `x ↦ - x * log x`

### PR DESCRIPTION
**Pull request by RemyDegenne**
Continuity, concavity, first two derivatives of `x ↦ - x * log x`.

From the PFR project.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Log/NegMulLog.lean [hunk 1]
```diff
@@ -0,0 +1,124 @@
...
+  · convert tendsto_pure_nhds (fun x ↦ log x * x) 0
+    simp
+
+lemma differentiableOn_mul_log : DifferentiableOn ℝ (fun x ↦ x * log x) {0}ᶜ :=
+  differentiable_id'.differentiableOn.mul differentiableOn_log
+
+lemma deriv_mul_log {x : ℝ} (hx : x ≠ 0) : deriv (fun x ↦ x * log x) x = log x + 1 := by
+  rw [deriv_mul differentiableAt_id' (differentiableAt_log hx)]
+  simp only [deriv_id'', one_mul, deriv_log', ne_eq, add_right_inj]
+  exact mul_inv_cancel hx
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Log/NegMulLog.lean:47]: Can you add the `HasDerivAt` version too?

File: Mathlib/Analysis/SpecialFunctions/Log/NegMulLog.lean [hunk 2]
```diff
@@ -0,0 +1,134 @@
...
+  intro x hx
+  simp only [Set.nonempty_Iio, interior_Ici', Set.mem_Ioi] at hx
+  rw [deriv2_mul_log hx.ne']
+  positivity
+
+lemma convexOn_mul_log : ConvexOn ℝ (Set.Ici (0 : ℝ)) (fun x ↦ x * log x) :=
+  strictConvexOn_mul_log.convexOn
+
+lemma mul_log_nonneg {x : ℝ} (hx : 1 ≤ x) : 0 ≤ x * log x :=
+  mul_nonneg (zero_le_one.trans hx) (log_nonneg hx)
```
Comment (YaelDillies) [inline Mathlib/Analysis/SpecialFunctions/Log/NegMulLog.lean:73]:
```suggestion
lemma mul_log_nonneg {x : ℝ} (hx : 1 ≤ x) : 0 ≤ x * log x :=
  mul_nonneg (zero_le_one.trans hx) (log_nonneg hx)

lemma mul_log_nonpos {x : ℝ} (hx₀ : 0 ≤ x) (hx₁ : x ≤ 1) : x * log x ≤ 0 :=
  mul_nonpos_of_nonneg_of_nonpos hx₀ (log_nonpos hx₀ hx₁)
```

File: Mathlib/Analysis/SpecialFunctions/Log/NegMulLog.lean [hunk 3]
```diff
@@ -0,0 +1,134 @@
...
+
+lemma negMulLog_eq_neg : negMulLog = fun x ↦ - (x * log x) := by simp [negMulLog_def]
+
+@[simp] lemma negMulLog_zero : negMulLog (0 : ℝ) = 0 := by simp [negMulLog]
+
+@[simp] lemma negMulLog_one : negMulLog (1 : ℝ) = 0 := by simp [negMulLog]
+
+lemma negMulLog_nonneg {x : ℝ} (h1 : 0 ≤ x) (h2 : x ≤ 1) : 0 ≤ negMulLog x := by
+  rw [negMulLog_eq_neg, neg_nonneg]
+  exact mul_nonpos_of_nonneg_of_nonpos h1 (log_nonpos h1 h2)
```
Comment (YaelDillies) [inline Mathlib/Analysis/SpecialFunctions/Log/NegMulLog.lean:90]:
```suggestion
  exact mul_log_nonpos h1 h2
```

File: Mathlib/Analysis/SpecialFunctions/Log/NegMulLog.lean [hunk 4]
```diff
@@ -0,0 +1,134 @@
...
+  by_cases hx : x = 0
+  · simp [hx]
+  by_cases hy : y = 0
+  · simp [hy]
+  rw [log_mul hx hy]
+  ring
+
+lemma continuous_negMulLog : Continuous negMulLog := by
+  rw [negMulLog_eq_neg]
+  exact continuous_mul_log.neg
```
Comment (YaelDillies) [inline Mathlib/Analysis/SpecialFunctions/Log/NegMulLog.lean:103]: I rather like this kind of proofs because it shows it's all just paramodulation.
```suggestion
  simpa only [negMulLog_eq_neg] using continuous_mul_log.neg
```

File: Mathlib/Analysis/SpecialFunctions/Pow/Asymptotics.lean [hunk 5]
```diff
@@ -380,3 +380,17 @@ theorem tendsto_log_mul_rpow_nhds_zero {r : ℝ} (hr : 0 < r) :
   (tendsto_log_div_rpow_nhds_zero <| neg_lt_zero.2 hr).congr' <|
     eventually_mem_nhdsWithin.mono fun x hx => by rw [rpow_neg hx.out.le, div_inv_eq_mul]
 #align tendsto_log_mul_rpow_nhds_zero tendsto_log_mul_rpow_nhds_zero
+
+lemma tendsto_log_mul_nhds_zero_left : Filter.Tendsto (fun x ↦ log x * x) (𝓝[<] 0) (𝓝 0) := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/SpecialFunctions/Pow/Asymptotics.lean:384]:
```suggestion
lemma tendsto_log_mul_self_nhds_zero_left : Filter.Tendsto (fun x ↦ log x * x) (𝓝[<] 0) (𝓝 0) := by
```
maybe?

**Review by dupuisf — COMMENTED** [review]
Thanks!

bors r+
